US08207167B2
2′,4′-Dichloro-N-(3-((dimethylamino)methyl)phenyl)biphenyl-4-sulfonamide (ABD724)
A solution of 3-(2′,4′-dichlorobiphenyl-4-ylsulfonamido)-N,N-dimethylbenzamide (130 mg, 0.29 mmol) in THF (5 mL) was stirred at room temperature and 1 M borane in THF (1.45 mL, 1.45 mmol) was added. The solution was heated at 50° C. for 45 minutes. The mixture was then cooled and saturated ammonium chloride (5 mL) was added. The mixture was further diluted with water (10 mL) and extracted with EtOAc (3×15 mL). The combined organic layers were dried over MgSO4, filtered and evaporated. The residue was purified by column chromatography (SiO2, 20% acetone/hexane) and the title compound obtained as a light yellow glass (73 mg). 1H NMR (300 MHz, CDCl3): δ 2.49 (6H, s), 3.87 (2H, s), 6.69 (1H, br s), 7.05-7.35 (6H, m), 7.49-7.50 (3H, m) and 7.81 (2H, d, J=9 Hz). MS, m/z: Calcd, 434.062. Found, 434.17 (M).

reactant | 3-(2′,4′-dichlorobiphenyl-4-ylsulfonamido)-N,N-dimethylbenzamide | 0.29 mmol, 130 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)N(C)C)C=CC1 | C21H18Cl2N2O3S
reactant | borane | 1 M | B | BH3
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | THF | 1.45 mmol, 1.45 mL | C1CCOC1 | C4H8O
product | 2′,4′-Dichloro-N-(3-((dimethylamino)methyl)phenyl)biphenyl-4-sulfonamide | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)CN(C)C | C21H20Cl2N2O2S
